US07544699B2
A solution of 6-(4-trifluoromethyl-phenoxy)-isoquinoline-3-carboxylic acid (0.050 g, 0.149 mmol) in DMF (2.0 mL) was treated with 2(S)-amino-3-(3′-chloro-4′-fluoro-biphenyl-4-yl)-propionic acid methyl ester hydrochloride (0.051 g, 0.164 mmol), HBTU (0.062 g, 0.164 mmol), and DIEA (0.112 mL) by the general procedure A. The crude product was purified by flash column chromatography on silica gel using Hexanes:EtOAc 88:12 to give 0.025 g of 3-(3′-Chloro-4′-fluoro-biphenyl-4-yl)-(2S)-{[6-(4-trifluoromethyl-phenoxy)-isoquinoline-3-carbonyl]-amino}-propionic acid methyl ester.

reactant | 6-(4-trifluoromethyl-phenoxy)-isoquinoline-3-carboxylic acid | 0.149 mmol, 0.050 g | FC(C1=CC=C(OC=2C=C3C=C(N=CC3=CC2)C(=O)O)C=C1)(F)F | C17H10F3NO3
reactant | 2(S)-amino-3-(3′-chloro-4′-fluoro-biphenyl-4-yl)-propionic acid methyl ester hydrochloride | 0.164 mmol, 0.051 g | Cl.COC([C@H](CC1=CC=C(C=C1)C1=CC(=C(C=C1)F)Cl)N)=O
reactant | HBTU | 0.164 mmol, 0.062 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 0.112 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | 3-(3′-Chloro-4′-fluoro-biphenyl-4-yl)-(2S)-{[6-(4-trifluoromethyl-phenoxy)-isoquinoline-3-carbonyl]-amino}-propionic acid methyl ester | 0.025 g | COC([C@H](CC1=CC=C(C=C1)C1=CC(=C(C=C1)F)Cl)NC(=O)C=1N=CC2=CC=C(C=C2C1)OC1=CC=C(C=C1)C(F)(F)F)=O | C33H23ClF4N2O4
